US04985419
(R)-(-)-2-Pyrrolidinylmethanol (50 g) is added to a suspension of (2RS)-2-(2-cyano-10-phenothiazinyl)propyl methanesulphonate (89.1 g) in absolute ethanol (2000 cc). The mixture is brought to reflux for 23 hours. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The residue is diluted with ethyl acetate (350 cc) and filtered, and the filtrate is washed with distilled water (150 cc) and saturated sodium chloride solution (2×100 cc). After settling has taken place, the organic phase is extracted with hydrochloric acid (350 cc) in 3N solution. The acidic aqueous extracts are extracted with ethyl acetate (200 cc) and then alkalinized with concentrated sodium hydroxide and re-extracted with ethyl acetate (3×200 cc). The organic phase is washed with distilled water (2×200 cc) and then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give a residue which is purified by chromatography on a column (height: 46 cm; diameter: 8.5 cm) of silica gel (0.2-0.06 mm), eluting with mixtures of cyclohexane and ethyl acetate in proportions (by volume) of 80:20 (12 liters) and 70:30 (30 liters), collecting 250-cc fractions. The first 12 liters are discarded and fractions 61 to 118 are combined and evaporated under reduced pressure (30 mm Hg; 4 kPa) at 40° C. to give 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbonitrile, L series (11.0 g) in the form of a yellow product of meringue-like consistency.

reactant | (R)-(-)-2-Pyrrolidinylmethanol | 50 g | N1[C@H](CCC1)CO | C5H11NO
reactant | (2RS)-2-(2-cyano-10-phenothiazinyl)propyl methanesulphonate | 89.1 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
solvent | ethanol | 2000 cc | C(C)O | C2H6O
product | 10-{1-[(2R)-2-hydroxymethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbonitrile | OC[C@@H]1N(CCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C21H23N3OS
